US07084154B2
To a mixture of (4-methoxy-phenyl)-ethylamine (10 g, Aldrich, U.S.A.) and triethylamine (10.1 mL) in dichloromethane (200 mL) was added acetic anhydride (7.4 g). The mixture was stirred at rt for 3 h and was washed successively with hydrochloric acid (1 M, 100 mL), 10% aqueous potassium carbonate (100 mL) and brine (100 mL). The dichloromethane layer was dried over sodium sulfate and filtered. The filtrate was evaporated to afford N-[2-(4-methoxy-phenyl)-ethyl]-acetamide (13.0 g).

reactant | (4-methoxy-phenyl)-ethylamine | 10 g | COC1=CC=C(C=C1)NCC | C9H13NO
reactant | triethylamine | 10.1 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 7.4 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | N-[2-(4-methoxy-phenyl)-ethyl]-acetamide | 13.0 g | COC1=CC=C(C=C1)CCNC(C)=O | C11H15NO2
